US07598243B2
A mixture of 5-bromo-2-fluorobenzoic acid (25 g, 0.11 mol), methyl iodide (8.5 mL, 0.14 mol), and potassium carbonate (31 g, 0.23 mol) in DMF (200 mL) was heated to 50° C. for 18 hr. The cooled reaction mixture was diluted with EtOAc (200 mL) and the organic phase was washed with a saturated aqueous NaCl solution (4×). The organic phase was then dried over sodium sulfate and evaporated to dryness to give 24 g of methyl 5-bromo-2-fluorobenzoate as a yellow oil.

reactant | 5-bromo-2-fluorobenzoic acid | 0.11 mol, 25 g | BrC=1C=CC(=C(C(=O)O)C1)F | C7H4BrFO2
reactant | methyl iodide | 0.14 mol, 8.5 mL | CI | CH3I
reactant | potassium carbonate | 0.23 mol, 31 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | methyl 5-bromo-2-fluorobenzoate | 24 g | BrC=1C=CC(=C(C(=O)OC)C1)F | C8H6BrFO2
